US06627651B1
Into a solution of 2-bromobenzyl alcohol (10.0 g) in THF (100 ml) was added at 0° C. sodium hydride (60%, 2.35 g), and the resulting mixture was stirred at room temperature for 2 hours. 1-Bromopropane (5.8 ml) was added to the reaction mixture, which was stirred at 60° C. for 20 hours. The reaction mixture was mixed with water and was extracted with ethyl acetate. The organic layer was washed with an aqueous saturated solution of sodium chloride and was dried with magnesium sulfate. After concentration under reduced pressure, the residue was subjected to separation and purification using column chromatography (ethyl acetate:hexane 1:9) to obtain 2-bromobenzyl propyl ether (7.88 g) as a colorless oily substance.

reactant | 2-bromobenzyl alcohol | 10.0 g | BrC1=C(CO)C=CC=C1 | C7H7BrO
reactant | sodium hydride | 2.35 g | [H-].[Na+]
reactant | 1-Bromopropane | 5.8 ml | BrCCC | C3H7Br
reactant | water | O | H2O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 2-bromobenzyl propyl ether | 7.88 g | C(CC)OCC1=C(C=CC=C1)Br | C10H13BrO
